US07332485B2
(3S,5R)-1-(Benzyloxyimino-Methyl)-3,5-Dimethyl-Cyclohexanecarboxylic Acid
A mixture of (3S,5R)-1-(benzyloxyimino-methyl)-3,5-dimethyl-cyclohexanecarboxylic acid methyl ester (4.8 g, 15.8 mmol) and lithium hydroxide monohydrate (6.6 g, 158 mmol) in THF (170 mL) and water (85 mL) was heated at 90° C. for 48 h. The reaction mixture was acidified to pH 3 with 6N aqueous HCl and was extracted with dichloromethane (75 mL×6). The combined organic layers were dried (MgSO4) and were evaporated in vacuo to yield the title compound as a pale yellow oil. (1.8 g, 39%). MH+290.

reactant | (3S,5R)-1-(benzyloxyimino-methyl)-3,5-dimethyl-cyclohexanecarboxylic acid methyl ester | 15.8 mmol, 4.8 g | COC(=O)C1(C[C@H](C[C@H](C1)C)C)C=NOCC1=CC=CC=C1 | C18H25NO3
reactant | lithium hydroxide monohydrate | 158 mmol, 6.6 g | O.[OH-].[Li+]
reactant | HCl | 6N | Cl | ClH
solvent | THF | 170 mL | C1CCOC1 | C4H8O
solvent | water | 85 mL | O | H2O
product | (3S,5R)-1-(Benzyloxyimino-Methyl)-3,5-Dimethyl-Cyclohexanecarboxylic Acid | C(C1=CC=CC=C1)ON=CC1(C[C@H](C[C@H](C1)C)C)C(=O)O | C17H23NO3
